US07842685B2
Reaction of 4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (38.9 mg, 0.109 mmol) and azetidine-3-carboxylic acid (55 mg, 0.546 mmol) according to Reference R and the general procedure for reductive amination to give 1-(4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)benzyl)azetidine-3-carboxylic acid as a white solid. MS (ESI) m/z: Calculated: 441.2; Observed: 442.1 (M++1).

reactant | 4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 0.109 mmol, 38.9 mg | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=CC=C(C=O)C=C2 | C22H16N2OS
reactant | azetidine-3-carboxylic acid | 0.546 mmol, 55 mg | N1CC(C1)C(=O)O | C4H7NO2
product | 1-(4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)benzyl)azetidine-3-carboxylic acid | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=CC=C(CN1CC(C1)C(=O)O)C=C2 | C26H23N3O2S
